US06610707B1
Benzyl (2S)-1-[(4-fluorophenyl)sulfonyl]-2-pyrrolidinecarboxylate (10.03 g) [see Preparation 48] was dissolved in ethanol (200 ml) and hydrogenated over 10% w/w palladium-on-charcoal (2.0 g) at 60 psi (414 kPa) for 18 hours. The reaction mixture was then filtered through a plug of ARBOCEL (trade mark) filter aid and the filtrate evaporated under reduced pressure. The residue was azeotroped with dichloromethane to afford (2S)-1-[(4-fluorophenyl)sulfonyl]-2-pyrrolidinecarboxylic acid (5.50 g) as a white solid.

reactant | Benzyl (2S)-1-[(4-fluorophenyl)sulfonyl]-2-pyrrolidinecarboxylate | 10.03 g | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1 | C18H18FNO4S
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 2.0 g | [Pd] | Pd
product | (2S)-1-[(4-fluorophenyl)sulfonyl]-2-pyrrolidinecarboxylic acid | 5.50 g | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCC1)C(=O)O | C11H12FNO4S
